US07842688B2
g) 2-(4-Methyl-3-nitrobenzyloxy)tetrahydropyran
The solution of 9.85 g of 4-methyl-3-nitrobenzyl alcohol in 200 ml of dichloromethane is admixed successively with 10.9 ml of 3,4-dihydro-2H-pyran and 1.12 g of p-toluenesulphonic acid monohydrate. The reaction mixture is stirred at room temperature over 18 hours. The solution is poured onto 1M sodium hydrogencarbonate solution (300 ml) and extracted with tert-butyl methyl ether (2×300 ml). The organic phase is washed with brine (300 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.49 (1:2 EtOAc-heptane); Rt=4.73.

reactant | 4-methyl-3-nitrobenzyl alcohol | 9.85 g | CC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C8H9NO3
reactant | 3,4-dihydro-2H-pyran | 10.9 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid monohydrate | 1.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | 1M, 300 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(4-Methyl-3-nitrobenzyloxy)tetrahydropyran | CC1=C(C=C(COC2OCCCC2)C=C1)[N+](=O)[O-] | C13H17NO4
